US06258812B1
7-Acetamino-1-(3-methoxyanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
By analogy with 25,300 mg (0.96 mmol) 7-acetamino-1-chloro-4-(4-pyridylmethyl)phthalazine is reacted in 3.9 ml 1-butanol with 321 μl (2.88 mmol) 3-methoxyaniline to obtain title compound: m.p.: 156-159° C.; HPLC: tRet(Grad5-40)=11.0; FAB MS (M+H)+=400.

reactant | 7-acetamino-1-chloro-4-(4-pyridylmethyl)phthalazine | 0.96 mmol, 25,300 mg | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
reactant | 3-methoxyaniline | 2.88 mmol, 321 μl | COC=1C=C(N)C=CC1 | C7H9NO
solvent | 1-butanol | 3.9 ml | C(CCC)O | C4H10O
product | 7-Acetamino-1-(3-methoxyanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC(=CC=C1)OC)CC1=CC=NC=C1 | InChI=1S/C23H21N5O2.ClH/c1-15(29)25-18-6-7-20-21(14-18)23(26-17-4-3-5-19(13-17)30-2)28-27-22(20)12-16-8-10-24-11-9-16;/h3-11,13-14H,12H2,1-2H3,(H,25,29)(H,26,28);1H
